US07977371B2
2-Aminocarbonylamino-5-(4-formylphenyl)pyrrole-3-carboxamide (Compound No. 14-1)
2-Iodoxybenzoic acid (150 mg, 0.53 mmol) was added to a solution of 2-aminocarbonylamino-5-(4-hydroxymethylphenyl)pyrrole-3-carboxamide (Compound No. 13-1, 130 mg, 0.47 mmol) in dimethyl sulfoxide (5 mL) and the mixture was stirred at room temperature for 1 hour. Water (15 mL) was added to the reaction solution, the precipitated solid was filtered off. The obtained solid was washed with 0.25N aqueous sodium hydroxide (2 mL) and water (2 mL), dried under reduced pressure to give the target compound (86 mg) as a yellow solid (Yield 67%).

reactant | 2-Iodoxybenzoic acid | 0.53 mmol, 150 mg | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | 2-aminocarbonylamino-5-(4-hydroxymethylphenyl)pyrrole-3-carboxamide | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)CO | C13H14N4O3
reactant | Water | 15 mL | O | H2O
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 2-Aminocarbonylamino-5-(4-formylphenyl)pyrrole-3-carboxamide | 86 mg, Yield 67% | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)C=O | C13H12N4O3
